US07642277B2
c) 5-{{3-(2-Chlorophenyl)-3-hydroxypropyl}thio}-1-(1-naphthalenyl)-1H-tetrazole
DIAD (82 μL, 0.42 mmol) was added dropwise to a solution of 1,2-dihydro-1-(1-naphthalenyl)-5H-tetrazole-5-thione (80.0 mg, 0.35 mmol), 1-(2-chlorophenyl)-1,3-propanediol (65.4 mg, 0.35 mmol), and PPh3 (110 mg, 0.42 mmol) in THF (10 mL) at room temperature. The reaction mixture was stirred at room temperature for 2 h then was concentrated under reduced pressure. The residue was purified by flash chromatography (CH2Cl2:(CH3)2CO, 95:5) to give the title compound (70 mg, 50% yield) as a white solid.

reactant | DIAD | 0.42 mmol, 82 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 1,2-dihydro-1-(1-naphthalenyl)-5H-tetrazole-5-thione | 0.35 mmol, 80.0 mg | C1(=CC=CC2=CC=CC=C12)N1NN=NC1=S | C11H8N4S
reactant | 1-(2-chlorophenyl)-1,3-propanediol | 0.35 mmol, 65.4 mg | ClC1=C(C=CC=C1)C(CCO)O | C9H11ClO2
reactant | PPh3 | 0.42 mmol, 110 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-{{3-(2-Chlorophenyl)-3-hydroxypropyl}thio}-1-(1-naphthalenyl)-1H-tetrazole | 70 mg, 50% yield | ClC1=C(C=CC=C1)C(CCSC1=NN=NN1C1=CC=CC2=CC=CC=C12)O | C20H17ClN4OS
